US04937252
Preparation of 3-(2-nitrophenylmethyl)-2-thiazolidinone
A mixture containing 3.09 g (0.03 mol) of 2-thiazolidinone, 11.2 g of potassium carbonate, 1.8 g of potassium hydrogen carbonate, 0.5 ml of water, 30 ml of methyl isobutyl ketone and 6.5 g (0.03 mol) of nitrobenzyl bromide is refluxed for 6 hours, then cooled down and thoroughly mixed with 50 ml of water. The mixture is filtered and the clear filtrate is separated. The organic phase is washed with 10 ml of water, dried and evaporated. The oily residue is recrystallized from ethanol to give 2.65 g (37.0%) of the title compound, m.p.: 92°-93° C.

reactant | 2-thiazolidinone | 0.03 mol, 3.09 g | S1C(NCC1)=O | C3H5NOS
reactant | potassium carbonate | 11.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydrogen carbonate | 1.8 g | C(O)([O-])=O.[K+]
reactant | nitrobenzyl bromide | 0.03 mol, 6.5 g | [N+](=O)([O-])C(C1=CC=CC=C1)Br | C7H6BrNO2
reactant | methyl isobutyl ketone | 30 ml | C(C(C)C)C(=O)C | C6H12O
solvent | water | 50 ml | O | H2O
solvent | water | 0.5 ml | O | H2O
product | 3-(2-nitrophenylmethyl)-2-thiazolidinone | 2.65 g, 37.0% | [N+](=O)([O-])C1=C(C=CC=C1)CN1C(SCC1)=O | C10H10N2O3S
